US06051358
Preparation of 2,6-Bis(2,4-dihydroxy-3-methylbenzyl )-4-methylphenol
To a one liter flask was added 500 ml of methanol, 102.6 g of 2-methylresorcinol, 17 g of 2,6-bis(hydroxymethyl)-4-methylphenol and 10 ml of concentrated hydrochloric acid. The mixture was heated at reflux for 24 hours, cooled and slowly poured into 3 L of de-mineralized water to precipitate the crude product. After the product was collected by filtration it was washed with a copious amount of water, dissolved into 3.5 L of hot water, and the mixture filtered while hot. The filtrate was cooled to ambient temperature and the crystals collected by filtration and dried. The filtrant was extracted with hot water four more times to give a total of 23.2 g of product having a purity greater than 94% as determined by HPLC.

reactant | methanol | 500 ml | CO | CH4O
reactant | 2-methylresorcinol | 102.6 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | 17 g | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 3 L | O | H2O
product | 2,6-Bis(2,4-dihydroxy-3-methylbenzyl )-4-methylphenol | 23.2 g | OC1=C(CC2=C(C(=CC(=C2)C)CC2=C(C(=C(C=C2)O)C)O)O)C=CC(=C1C)O | C23H24O5
